2118-01-01 09:10:00 Physician Attending Progress Note
Chief Complaint: 34 yr woman with hypoxic resp failure after C-Section
   on [**12-24**].
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Morbid Obesity
   Type II DM, Hypertension
   35 wks preg - oligohydramnios, admitted for induction of labor on [**12-22**],
   C-Section on 15th.
   Home on [**12-27**], Incision check 0n [**12-29**]
   [**12-31**] to [**Hospital 97**] Hospital with SOB at rest, cough, pleuritic chest
   pain, LE edema
   Had CXR which showed bilateral infiltrates; CTA neg for PE; bilat
   GGO's. Tx'd with Solumedrol, Ceftriax, Azithro, lasix - admit to
   [**Hospital1 97**] ICU for BiPAP. Flu Swab negative. Bronch was BAL -
   deteriorated and required intubation.....difficulty ventilating and
   transferred last PM for continued care
   24 Hour Events:
 INVASIVE VENTILATION - START [**2118-1-1**] 12:53 AM
 ARTERIAL LINE - START [**2118-1-1**] 02:53 AM
 MULTI LUMEN - START [**2118-1-1**] 05:05 AM
 MULTI LUMEN - START [**2118-1-1**] 05:35 AM
   Since admit:
   Paralyzed, stabilized on Vent. Sedated with fentanyl/versed. Central
   line placed.
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Lisinopril
   Cough;
   Celexa (Oral) (Citalopram Hydrobromide)
   sexual dysfunct
   Last dose of Antibiotics:
   Ciprofloxacin - [**2118-1-1**] 01:04 AM
   Vancomycin - [**2118-1-1**] 04:06 AM
   Acyclovir - [**2118-1-1**] 05:36 AM
   Levofloxacin - [**2118-1-1**] 05:36 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Cisatracurium - 0.2 mg/Kg/hour
   Other ICU medications:
   Cisatracurium - [**2118-1-1**] 01:37 AM
   Other medications:
   Tamifu, famitodine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-1**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (98.9
   HR: 106 (95 - 108) bpm
   BP: 109/55(71) {95/45(61) - 116/58(75)} mmHg
   RR: 32 (27 - 36) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
   CVP: 13 (9 - 13)mmHg
   Total In:
                                                                  1,160 mL
   PO:
   TF:
   IVF:
                                                                  1,160 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    830 mL
   Urine:
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    330 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (350 - 360) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 80%
   RSBI Deferred: Neuromusc Block
   PIP: 36 cmH2O
   Plateau: 32 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.32/61/105/27/2
   Ve: 12.4 L/min
   PaO2 / FiO2: 131
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Obese, Abdom wall edema, enormous pannus
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   334 K/uL
   286 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.4 mEq/L
   21 mg/dL
   108 mEq/L
   144 mEq/L
   25.2 %
   21.2 K/uL
        [image002.jpg]
                             [**2118-1-1**]  01:02 AM
                             [**2118-1-1**]  01:40 AM
                             [**2118-1-1**]  02:38 AM
                             [**2118-1-1**]  03:57 AM
                             [**2118-1-1**]  08:08 AM
   WBC
   21.2
   Hct
   25.2
   Plt
   334
   Cr
   1.2
   TropT
   <0.01
   TCO2
   30
   31
   30
   33
   Glucose
   288
   286
   Other labs: PT / PTT / INR:13.2/23.4/1.1, CK / CKMB /
   Troponin-T:162/2/<0.01, ALT / AST:18/17, Alk Phos / T Bili:59/0.2,
   Amylase / Lipase:30/15, Differential-Neuts:96.5 %, Lymph:1.3 %,
   Mono:2.1 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL,
   Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:5.5 mg/dL
   Imaging: CXR -
   Microbiology: BC's pending
   ECG: Sinus Tachy - r axis
   Assessment and Plan
   34F with asthma, DM, HTN, G3P1 POD#8 from Csection, presenting with
   hypoxemic respiratory failure.
   # Hypoxic respiratory failure.  With low P:F ratio, bilateral
   infiltrates, and presumably normal L sided pressures (based on today's
   OSH echo), meets criteria for ARDS.  If infectious, pneumonia vs.
   extrapulmonary source; also consider other inflammatory processess (no
   evidence of pancreatitis, retained products (?would be unusual to cause
   ARDS).  Could be CAP (typicals or atypicals), HAP given recent
   hospitalization; extrapulmonaries including endometritis, UTI,
   bacteremia of unclear etiology.  Specific to pregnancy, would also
   think about varicella pneumonia and specifically influenza (especially
   given pregnancy, asthma, and morbid obesity).  Flu test at OSH neg, but
   given high suspicion would prefer to treat and retest here and/or wait
   for culture.  Would also keep in mind possibility of cardiogenic
   pulmonary edema (postpartum cardiomyopathy etc) though did have a TTE
   at OSH which seemed encouraging of normal cardiac function.
   - CXR here.
   - Review OSH imaging with radiology.
   - Send sputum and legionella urinary antigen.
   - ?how/what to send for workup of varicella in BAL/cultures.
   Consider re-echo.
   - Repeat ECG.
   - Treat for CAP with beta lactam, levofloxacin.
   - Treat for HAP with zosyn, vanco.
   - Cover for varicella pneumonia with acyclovir.
   - Oseltamavir empirically for flu
   - Cover for endometritis with zosyn.
   - Vent settings: LTTV goal 6cc/kg, ARDSnet protocol.
   - pH goal >7.20.
   - Consider esophageal balloon placement and further PEEP titration;
   likely needs high PEEPs to obtain desired transpulmonary pressures
   given body habitus.
   - A-line placed
   # Relative hypotension/?septic shock.  Outpatient BP 160s three days
   ago, here in low 100s-110s.  Hypotension could be explained by multiple
   sedating meds, but with ARDS concerning for infection/sepsis.  Lactate
   normal and thus far good UOP (though with ARF).  Unable to follow
   mental status.
   - follow lactates.
   - monitor UOP.
   - Place CVL.
   - Check central venous sat.
   - Transduce CVP.
   - Antibiotics as above.
   .
   # Fever, leukocytosis.  Concerning for infectious processes as above.
   - Sending blood, urine, sputum, flu.
   - Antibiotics as above.
   .
   # ARF.  Thus far making good urine.  Has been exposed to contrast
   (though too early); also consider ATN from hypotension/sepsis, poor
   forward flow/heart failure, AIN/med effect, ?preeclampsia.  Pregnancy
   baseline 0.5, then was 0.8 at OSH.
   - Send UA and urine lytes.
   - Consider renal US.
   - Avoid hypotension and nephrotoxins.
   .
   # DM type II.  Was requiring multi-100s units of insulin daily during
   pregnancy per past [**Last Name (un) 294**] note.
   - ISS with humalog for now.
   .
   # HTN.
   - Holding BP meds as above.
   .
   # Asthma.  Does not seem to be playing major role in current
   respiratory failure.
   - Monitor airway resistances.
   - Nebs only; hold on further steroids given need for paralytics and
   little evidence for role here.
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: SQH, H2B
   # Access: peripherals, place CVL
   # Communication: Husband is HCP, need to contact again tomorrow.
   # Code:  Full
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2118-1-1**] 01:03 AM
   22 Gauge - [**2118-1-1**] 01:04 AM
   Arterial Line - [**2118-1-1**] 02:53 AM
   Multi Lumen - [**2118-1-1**] 05:35 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2118-01-03 07:41:00 Physician Resident Progress Note
Chief Complaint: Hypoxic respiratory failure and transfer from OSH.
   24 Hour Events:
 FEVER - 102.5
F - [**2118-1-2**] 05:00 PM
   - OB/Gyn stopped by in the morning, and recommended against obtaining
   an abdominal/pelvic CT.
   - Met with family: Per husband, pt. had H1N1 shot. Explained
   pneumonia/sepsis/retained clot/unlikely uterine or incisional
   infection/need for intubation ARDS and sedation.
   - ID approval for vanc and osetamivir - If negative viral culture
   (although antigen ~ 95% sensitive) then stop. If positive and continued
   clinical syndrome, then continue osetamivir while symptomatic. We think
   this is vanishingly unlikely now that she has had H1N1 shot (~80%
   effective) and negative antigen test.
   - Had fever to 102.5 today - started tylenol up to 4 g daily for fever.
   - Very hypertensive in a.m. and lopressor 40 mg did not help; started
   drip.
   - Pressure came down to 80s SBP - very dangerous given likely lack of
   cerebral flow given typically high pressures. Would prefer to be higher
   with good UOP.
   - Gave bolae 500 cc x 3. Pressure came up to 110s.
   - OSH did BAL but no viral culture - too late to add on.
   - HCt stable: 22.7 > 24.7
   - Increased dose of vancomycin to 1500 mg q12 given vancomycin level of
   7.0
   - OB changing dressing [**Hospital1 **].
   Allergies:
   Lisinopril
   Cough;
   Celexa (Oral) (Citalopram Hydrobromide)
   sexual dysfunct
   Last dose of Antibiotics:
   Ciprofloxacin - [**2118-1-1**] 01:04 AM
   Vancomycin - [**2118-1-3**] 04:01 AM
   Acyclovir - [**2118-1-3**] 05:07 AM
   Levofloxacin - [**2118-1-3**] 05:07 AM
   Piperacillin/Tazobactam (Zosyn) - [**2118-1-3**] 05:07 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2118-1-2**] 08:14 AM
   Midazolam (Versed) - [**2118-1-2**] 09:30 AM
   Fentanyl - [**2118-1-2**] 09:30 AM
   Labetalol - [**2118-1-2**] 10:41 AM
   Hydralazine - [**2118-1-2**] 12:00 PM
   Dextrose 50% - [**2118-1-2**] 10:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-3**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.7
C (99.8
   HR: 80 (68 - 113) bpm
   BP: 137/68(92) {84/42(55) - 216/103(140)} mmHg
   RR: 32 (15 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 8 (8 - 20)mmHg
   Total In:
                                                                  4,340 mL
                                                                    935 mL
   PO:
   TF:
   IVF:
                                                                  4,105 mL
                                                                    875 mL
   Blood products:
   Total out:
                                                                  3,376 mL
                                                                    965 mL
   Urine:
                                                                  3,376 mL
                                                                    965 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    964 mL
                                                                    -30 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.44/44/102/28/4
   Ve: 11.5 L/min
   PaO2 / FiO2: 255
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   307 K/uL
   7.1 g/dL
   105 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   20 mg/dL
   110 mEq/L
   146 mEq/L
   22.4 %
   9.0 K/uL
        [image002.jpg]
                             [**2118-1-1**]  05:01 PM
                             [**2118-1-1**]  05:10 PM
                             [**2118-1-2**]  03:09 AM
                             [**2118-1-2**]  03:24 AM
                             [**2118-1-2**]  02:21 PM
                             [**2118-1-2**]  02:41 PM
                             [**2118-1-2**]  09:03 PM
                             [**2118-1-3**]  03:15 AM
                             [**2118-1-3**]  03:38 AM
                             [**2118-1-3**]  06:32 AM
   WBC
   14.7
   11.6
   9.0
   Hct
   23.6
   22.7
   24.8
   22.4
   Plt
   [**Telephone/Fax (3) 10568**]
   Cr
   0.8
   0.8
   TCO2
   32
   30
   30
   33
   31
   31
   Glucose
   83
   105
   Other labs: PT / PTT / INR:14.5/25.1/1.3, CK / CKMB /
   Troponin-T:115/2/<0.01, ALT / AST:18/17, Alk Phos / T Bili:59/0.2,
   Amylase / Lipase:30/15, Differential-Neuts:96.5 %, Lymph:1.3 %,
   Mono:2.1 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: Slight interval improvement in CXR today.
   Microbiology: Urine and blood cultures pending - no growth.
   MRSA, VZV pending
   Wound cultures pending, but Gram stains unremarkable.
   ECG: None.
   Assessment and Plan
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 .H/O HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE I
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 OBSTRUCTIVE SLEEP APNEA (OSA)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   34F with asthma, DM, HTN, G3P1 POD#9 from caesarean section, presenting
   with hypoxemic respiratory failure.
   # Hypoxic respiratory failure. With low P:F ratio, bilateral
   infiltrates, and presumably normal L sided pressures (based on OSH
   echo), meets criteria for ARDS.  If infectious, pneumonia vs.
   extrapulmonary source; also consider other inflammatory processes (no
   evidence of pancreatitis, retained products (which would be unusual to
   cause ARDS).  Could be CAP (typicals or atypicals), HAP given recent
   hospitalization; extrapulmonaries including endometritis, UTI,
   bacteremia of unclear etiology.  Specific to pregnancy, would also
   think about varicella pneumonia and specifically influenza (especially
   given pregnancy, asthma, and morbid obesity).  Flu test at OSH
   negative, but given high suspicion would prefer to treat and retest
   here and/or wait for culture.  Would also keep in mind possibility of
   cardiogenic pulmonary edema (postpartum cardiomyopathy, etc) though did
   have a TTE at OSH which seemed encouraging of normal cardiac function.
   BNP 534.
   - Trend CXR
   - Will need to review OSH imaging with radiology
   - Will need to call OSH regarding BAL results, question if BAL had been
   sent for viral culture; If not, consider BAL + viral culture here
   - Follow cultures; legionella negative, flu negative
   - Continue vancomycin, zosyn, levofloxacin, acyclovir, tamiflu for
   CAP/HAP/flu/varicella pneumonia
   - Ventilate ARDSnet protocol, LTTV goal 6cc/kg, pH goal >7.20
   - Wean vent as tolerated; wean paralytic; daily SBT
   # Blood pressure. Initially with relative hypotension and question if
   septic shock. Outpatient BP 160s three days ago, here in low
   100s-110s.  Hypotension could be explained by multiple sedating meds,
   but with ARDS concerning for infection/sepsis.  Lactate normal and thus
   far good UOP (though with ARF).  Unable to follow mental status.
   Starting [**1-1**] had hypertensive episodes up to 200s/100s. Decided
   unlikely to be sepsis at this point and plan to treat hypertension.
   Considering pre-eclampsia but very low suspicion.
   - Trend lactate
   - Monitor UOP
   - Continue antibiotics as above
   - Start labetalol 40mg IV standing; consider
   hydralazine/captopril/other short acting antihypertensives; goal SBP
   140-160
   - Obtain urine protein
   # Fever, leukocytosis. Afebrile overnight and leukocytosis
   downtrending.
   - Follow cultures
   - Continue antibiotics as above
   # s/p caesarean section. Wound clean, dry intact at this time without
   further drainage. Likely secondary to seroma. Will defer CT imaging at
   this time per ob/gyn recommendations and low suspicion.
   - Follow ob/gyn recommendations; appreciate their input
   - Wet to dry [**Hospital1 **] dressing changes
   # ARF. Stable. Currently with good UOP. Patient has been exposed to
   contrast; also consider ATN from hypotension/sepsis, poor forward
   flow/heart failure, AIN/med effect. Will keep in mind preeclampsia.
   Pregnancy baseline 0.5, then was 0.8 at OSH. FeNa 0.1% suggestin
   likelihood pre-renal.
   - Trend Cr
   - Avoid hypotension and nephrotoxins
   # Anemia. Likely related with serosanguinous drainage from wound.
   - Check PM hct, goal hct > 21
   # DM type II.  Was requiring multi-100s units of insulin daily during
   pregnancy per past [**Last Name (un) 294**] note.
   - ISS with humalog for now.
   # Asthma.  Does not seem to be playing major role in current
   respiratory failure.
   - Monitor airway resistances.
   - Nebs only; hold on further steroids given need for paralytics and
   little evidence for role here.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2118-1-1**] 01:03 AM
   Arterial Line - [**2118-1-1**] 02:53 AM
   Multi Lumen - [**2118-1-1**] 05:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-01-03 12:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure/ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Seen by Ob/Gyn ths AM --> felt that c-section site clean
   Down to FIO2 of 0.4 --> decreased PEEP to 12 this AM
   24 Hour Events:
 FEVER - 102.5
F - [**2118-1-2**] 05:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Lisinopril
   Cough;
   Celexa (Oral) (Citalopram Hydrobromide)
   sexual dysfunct
   Last dose of Antibiotics:
   Ciprofloxacin - [**2118-1-1**] 01:04 AM
   Vancomycin - [**2118-1-3**] 04:01 AM
   Acyclovir - [**2118-1-3**] 05:07 AM
   Levofloxacin - [**2118-1-3**] 05:07 AM
   Piperacillin/Tazobactam (Zosyn) - [**2118-1-3**] 05:07 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2118-1-2**] 12:00 PM
   Dextrose 50% - [**2118-1-2**] 10:35 PM
   Famotidine (Pepcid) - [**2118-1-3**] 08:58 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-1-3**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37
C (98.6
   HR: 82 (68 - 101) bpm
   BP: 161/81(109) {84/42(55) - 195/86(119)} mmHg
   RR: 30 (15 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
   CVP: 8 (8 - 20)mmHg
   Total In:
                                                                  4,340 mL
                                                                  1,067 mL
   PO:
   TF:
   IVF:
                                                                  4,105 mL
                                                                    917 mL
   Blood products:
   Total out:
                                                                  3,376 mL
                                                                  1,765 mL
   Urine:
                                                                  3,376 mL
                                                                  1,765 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    964 mL
                                                                   -698 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   Compliance: 32.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.47/43/106/28/6
   Ve: 11.3 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: No acute distress, intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   307 K/uL
   105 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   20 mg/dL
   110 mEq/L
   146 mEq/L
   22.4 %
   9.0 K/uL
         [image002.jpg]
                             [**2118-1-1**]  05:10 PM
                             [**2118-1-2**]  03:09 AM
                             [**2118-1-2**]  03:24 AM
                             [**2118-1-2**]  02:21 PM
                             [**2118-1-2**]  02:41 PM
                             [**2118-1-2**]  09:03 PM
                             [**2118-1-3**]  03:15 AM
                             [**2118-1-3**]  03:38 AM
                             [**2118-1-3**]  06:32 AM
                             [**2118-1-3**]  10:32 AM
   WBC
   14.7
   11.6
   9.0
   Hct
   23.6
   22.7
   24.8
   22.4
   Plt
   [**Telephone/Fax (3) 10568**]
   Cr
   0.8
   0.8
   TCO2
   30
   30
   33
   31
   31
   32
   Glucose
   83
   105
   Other labs: PT / PTT / INR:14.5/25.1/1.3, CK / CKMB /
   Troponin-T:115/2/<0.01, ALT / AST:18/17, Alk Phos / T Bili:59/0.2,
   Amylase / Lipase:30/15, Differential-Neuts:96.5 %, Lymph:1.3 %,
   Mono:2.1 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 .H/O HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE I
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 OBSTRUCTIVE SLEEP APNEA (OSA)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   34F with asthma, DM, HTN, G3P1 POD#8 from Csection, presenting with
   hypoxemic respiratory failure.
   # Hypoxic respiratory failure.  No microbiologic diagnosis.  FIO2 able
   to come down to 0.4.  Will work on getting PEEP down.
   -Cont vanc/Zosyn/levo
   -Cont ACV
   -D/C oseltamivir
   -Repeat TTE
   -F/U on OSH BAL
   -Fever last PM --> cont to trend fever curve
   -Change over to PSV
   # Relative hypotension/?septic shock.  Now hypertensive.  Restart home
   antihypertensives
   # ARF.  Cr stable.  Making urine
   # Post-partum care: Appreciate ongoing Ob input
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2118-1-1**] 01:03 AM
   Arterial Line - [**2118-1-1**] 02:53 AM
   Multi Lumen - [**2118-1-1**] 05:35 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2118-01-04 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - OB/GYN: Recommended placing wound vac, wound looks good.
   - Wound Care Consulted re: wound vac. Unable to place wound vac given
   panus. Will continue to pack.
   - OSH Culture Date (([**Telephone/Fax (1) 10578**]): NL Resp Flora (Not best sample)
   - Changed to Pressure Support. Did Well.
   - Started Chlorthalidone 25 mg PO/NG DAILY and Labetolol 200mg TID
   - Oseltamivir DC'd
   - Sedation weaned, rx for zyprexa prn anxiety.
   - Extubated
   Allergies:
   Lisinopril
   Cough;
   Celexa (Oral) (Citalopram Hydrobromide)
   sexual dysfunct
   Last dose of Antibiotics:
   Acyclovir - [**2118-1-3**] 09:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2118-1-3**] 09:59 PM
   Vancomycin - [**2118-1-4**] 04:26 AM
   Levofloxacin - [**2118-1-4**] 05:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2118-1-3**] 08:58 AM
   Heparin Sodium (Prophylaxis) - [**2118-1-3**] 11:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-4**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.3
   HR: 90 (71 - 109) bpm
   BP: 154/76(104) {143/71(96) - 208/101(142)} mmHg
   RR: 24 (14 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 15 (13 - 20)mmHg
   Total In:
                                                                  2,110 mL
                                                                    676 mL
   PO:
   TF:
   IVF:
                                                                  1,840 mL
                                                                    676 mL
   Blood products:
   Total out:
                                                                  5,475 mL
                                                                  2,470 mL
   Urine:
                                                                  5,475 mL
                                                                  2,470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,365 mL
                                                                 -1,795 mL
   Respiratory support
 Updated ABG s/p extubation reviewed at rounds.
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 360 (360 - 360) mL
   Vt (Spontaneous): 391 (378 - 512) mL
   PS : 5 cmH2O
   RR (Set): 32
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 19 cmH2O
   Plateau: 26 cmH2O
   SpO2: 97%
   ABG: 7.47/43/98.[**Numeric Identifier 500**]/28/6
   Ve: 9 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General: Awake, alert and oriented.
   HEENT: Sclera anicteric, pupils very small but equal/reactive, MMM, ETT
   in place.
   Neck: Supple, JVD very difficult to appreciate, no adenopathy.
   Lungs: Coarse anterolaterally, cannot obtain posterior exam.  No
   wheezes or rales. Difficult exam but overall clear.
   CV: Tachy and regular, normal S1 + S2, no murmurs, rubs, gallops
   appreciated.
   Abdomen:  Very obese, soft, appears non-tender, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly, pitting abdominal
   wall edema.  Suprapubic incision covered with clean dressing, intact.
   No signs of ongoing bleeding or drainage.
   Ext: Warm, well perfused, diffuse 2+ edema/anasarca.
   Neuro: CN II-XII grossly intact, AOx3.
   Labs / Radiology
   362 K/uL
   7.9 g/dL
   118 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.8 mEq/L
   15 mg/dL
   108 mEq/L
   144 mEq/L
   25.1 %
   8.6 K/uL
        [image002.jpg]
                             [**2118-1-2**]  09:03 PM
                             [**2118-1-3**]  03:15 AM
                             [**2118-1-3**]  03:38 AM
                             [**2118-1-3**]  06:32 AM
                             [**2118-1-3**]  10:32 AM
                             [**2118-1-3**]  01:20 PM
                             [**2118-1-3**]  04:52 PM
                             [**2118-1-3**]  10:02 PM
                             [**2118-1-4**]  03:29 AM
                             [**2118-1-4**]  06:57 AM
   WBC
   9.0
   8.6
   Hct
   22.4
   25.1
   Plt
   307
   362
   Cr
   0.8
   0.7
   TCO2
   33
   31
   31
   32
   32
   31
   30
   32
   Glucose
   105
   118
   Other labs: PT / PTT / INR:14.0/24.4/1.2, CK / CKMB /
   Troponin-T:115/2/<0.01, ALT / AST:[**9-23**], Alk Phos / T Bili:47/0.4,
   Amylase / Lipase:30/15, Differential-Neuts:96.5 %, Lymph:1.3 %,
   Mono:2.1 %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   [**2118-1-4**] CXR
 Final read pending;
   [**2118-1-3**] CXR
 Widespread pulmonary infiltration which improved
   between [**1-1**] and [**1-2**] on the right, particularly, has
   changed in distribution is probably exaggerated by low lung volumes but
   probably unchanged over the preceding 24 hours. Endotracheal tube tip
   is very close to the carina and should be withdrawn at least 3 cm.
   Right internal jugular line in standard placement.  Nasogastric tube
   loops in the stomach and passes out of view.
   [**2118-1-2**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [**2118-1-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2118-1-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2118-1-2**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2118-1-1**]  SWAB GRAM STAIN-FINAL; WOUND CULTURE-FINAL; ANAEROBIC
   CULTURE-PRELIMINARY INPATIENT
   [**2118-1-1**]  SWAB GRAM STAIN-FINAL; WOUND CULTURE-FINAL {STAPHYLOCOCCUS,
   COAGULASE NEGATIVE, CORYNEBACTERIUM SPECIES (DIPHTHEROIDS)}; ANAEROBIC
   CULTURE-FINAL INPATIENT
      GRAM STAIN (Final [**2118-1-1**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      WOUND CULTURE (Final [**2118-1-3**]):
         STAPHYLOCOCCUS, COAGULASE NEGATIVE.    RARE GROWTH.
         CORYNEBACTERIUM SPECIES (DIPHTHEROIDS).    SPARSE GROWTH.
      ANAEROBIC CULTURE (Final [**2118-1-1**]):
         SPECIMEN NOT PROCESSED DUE TO: NOT SENT IN ANAEROBIC TRANSPORT.
   [**2118-1-1**]  Rapid Respiratory Viral Screen & Culture Respiratory Viral
   Culture-FINAL; Respiratory Viral Antigen Screen-FINAL INPATIENT
      Respiratory Viral Culture (Final [**2118-1-3**]):
         No respiratory viruses isolated.
         Culture screened for Adenovirus, Influenza A & B, Parainfluenza
   type
         1,2 & 3, and Respiratory Syncytial Virus..
         Detection of viruses other than those listed above will only be
         performed on specific request. Please call Virology at
   [**Telephone/Fax (1) 10579**]
         within 1 week if additional testing is needed.
      Respiratory Viral Antigen Screen (Final [**2118-1-1**]):
         Negative for Respiratory Viral Antigen.
         Specimen screened for: Adeno, Parainfluenza 1, 2, 3, Influenza A,
   B,
         and RSV by immunofluorescence.
         Refer to respiratory viral culture for further information.
   [**2118-1-1**]  SEROLOGY/BLOOD VARICELLA-ZOSTER IgG SEROLOGY-PENDING
   INPATIENT
   [**2118-1-1**]  URINE Legionella Urinary Antigen -FINAL INPATIENT
   [**2118-1-1**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2118-1-1**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2118-1-1**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
   34F with asthma, DM, HTN, G3P1 POD#9 from caesarean section, presenting
   with hypoxemic respiratory failure.
   # Hypoxic respiratory failure
   s/p extubation and currently much improved. Etiology unclear.
   Cardiomegaly on chest x-ray here, but echo normal in OSH. Likely
   projection on our AP films, question transient cardiomyopathy related
   with pregnancy given BNP 534 although does not meet severity of
   symptoms. Likely some fluid overload. Initially treated with ARDSnet
   protocol given low P:F ratio, bilateral infiltrates, and presumably
   normal L sided pressures (based on OSH echo). Has had interval
   improvement. Question PNA (consolidate particularly on right LL) as
   cause of symptoms.
   - Follow cultures
   - Trend CXR
   - Continue vancomycin, zosyn, levofloxacin, acyclovir (start date
   [**1-1**]); tamiflu discontinued. Team debated about which agents to
   continue today, and tentatively will continue all agents as above for
   presumed HAP from delivery, CAP after going home, ? varicella pneumonia
   s/p delivery. Likely will aim for a [**4-15**] day course of the above if
   patient is still hospitalized during this time.
   # Blood pressure
   Likely due to withdrawal of methyl-dopa. Very labile. Patient noted
   that she was not on any anti hypertensives prior to her pregnancy.
   - Continue labetalol and wean
   - Increased Chlorthalidone to 50mg
   - Will need to ask about nursing plans and choose BP agents accordingly
   # Fever, leukocytosis
   Improved. Only febrile one day after admission (given one dose of
   Tylenol last night and afebrile without further doses). Antibiotic
   regimen changed on admission here, so not immediately concerning for
   uncovered organism.
   - Follow cultures
   - Continue antibiotics as above
   # s/p caesarean section
   OBGYN following. Does not appear infected at this time.
   - Continue wound care; unable to place wound vac
   # ARF. Stable, but slightly above baseline now, which is likely around
   0.5.
   - Trend Cr
   # Anemia
   Stable. Likely related with serosanguinous drainage from wound.
   - Goal hct > 21
   # DM type II
   Was requiring multi-100s units of insulin daily during pregnancy per
   past [**Last Name (un) 294**] note.  Stopped insulin drip yesterday.
   - ISS with regular for now.
   - Calculate necessary standing insulin
   # Asthma.
   Does not seem to be playing major role in current respiratory failure.
   - Continue Albuterol, Ipratropium
   # FEN: No IVF, replete electrolytes, consider start diet today
   # Prophylaxis: SQH, H2B
   # Access: Peripherals, central line
   # Communication: Husband is HCP, need to contact again
   # [**Name2 (NI) 129**]:  Full
   # Disposition: ICU pending clinical improvement; will try CPAP tonight;
   needs PT/OT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2118-1-1**] 01:03 AM
   Arterial Line - [**2118-1-1**] 02:53 AM
   Multi Lumen - [**2118-1-1**] 05:35 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: Famotidine
   VAP:  On antibiotics at present
   Comments:
   Communication:  Comments: Patient and family
   Code status: Full code
   Disposition: ICU

2118-01-04 10:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Breathing feels comfortable post-extubation this AM, voice feels raspy
   24 Hour Events:
   Extubated this AM, pO2 60 on 70% shovel
   Neg 5L between yesterday and today
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   Lisinopril
   Cough;
   Celexa (Oral) (Citalopram Hydrobromide)
   sexual dysfunct
   Last dose of Antibiotics:
   Acyclovir - [**2118-1-3**] 09:18 PM
   Vancomycin - [**2118-1-4**] 04:26 AM
   Levofloxacin - [**2118-1-4**] 05:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2118-1-4**] 06:21 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-1-4**] 08:21 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-1-4**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 86 (71 - 109) bpm
   BP: 160/74(104) {150/74(102) - 208/101(142)} mmHg
   RR: 23 (14 - 33) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
   CVP: 9 (9 - 20)mmHg
   Total In:
                                                                  2,110 mL
                                                                    805 mL
   PO:
   TF:
   IVF:
                                                                  1,840 mL
                                                                    805 mL
   Blood products:
   Total out:
                                                                  5,475 mL
                                                                  3,470 mL
   Urine:
                                                                  5,475 mL
                                                                  3,470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,365 mL
                                                                 -2,665 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 577 (378 - 577) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 33
   PIP: 12 cmH2O
   SpO2: 89%
   ABG: 7.49/38/60/28/5
   Ve: 10.3 L/min
   PaO2 / FiO2: 60
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   7.9 g/dL
   362 K/uL
   118 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.4 mEq/L
   15 mg/dL
   108 mEq/L
   144 mEq/L
   25.1 %
   8.6 K/uL
        [image002.jpg]
                             [**2118-1-3**]  03:15 AM
                             [**2118-1-3**]  03:38 AM
                             [**2118-1-3**]  06:32 AM
                             [**2118-1-3**]  10:32 AM
                             [**2118-1-3**]  01:20 PM
                             [**2118-1-3**]  04:52 PM
                             [**2118-1-3**]  10:02 PM
                             [**2118-1-4**]  03:29 AM
                             [**2118-1-4**]  06:57 AM
                             [**2118-1-4**]  10:19 AM
   WBC
   9.0
   8.6
   Hct
   22.4
   25.1
   Plt
   307
   362
   Cr
   0.8
   0.7
   TCO2
   31
   31
   32
   32
   31
   30
   32
   30
   Glucose
   105
   118
   Other labs: PT / PTT / INR:14.0/24.4/1.2, CK / CKMB /
   Troponin-T:115/2/<0.01, ALT / AST:[**9-23**], Alk Phos / T Bili:47/0.4,
   Amylase / Lipase:30/15, Differential-Neuts:96.5 %, Lymph:1.3 %,
   Mono:2.1 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 .H/O HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE I
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 OBSTRUCTIVE SLEEP APNEA (OSA)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   34F with asthma, DM, HTN, G3P1 POD#8 from Csection, presenting with
   hypoxemic respiratory failure.
   # Hypoxic respiratory failure.  No microbiologic diagnosis.  FIO2 able
   to come down to 0.4.  Will work on getting PEEP down.
   -Cont vanc/zosyn/levo for 7 days
   -Cont ACV pending finalization of OSH viral culture
   -Now extubated
   # Relative hypotension/?septic shock.  Now hypertensive - treating with
   labetolol
   # ARF.  Cr stable.  Autodiuresing
   # Post-partum care: Appreciate ongoing Ob input
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2118-1-1**] 01:03 AM
   Arterial Line - [**2118-1-1**] 02:53 AM
   Multi Lumen - [**2118-1-1**] 05:35 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2118-01-05 06:03:00 Physician Resident Progress Note
TITLE:

2118-01-05 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2118-1-4**] 09:30 AM
   - Extubated in AM.
   - Patient started on clear liquid diet. PT/OT ordered.
   - OB/Gyn recommended dressing changes [**Hospital1 **] and to keep the incision area
   clean and dry.
   - BP controlled throughout the day on Labetalol drip. Titrated off the
   drip in the evening and changed to Labetalol 200mg qid.
   Allergies:
   Lisinopril
   Cough;
   Celexa (Oral) (Citalopram Hydrobromide)
   sexual dysfunct
   Last dose of Antibiotics:
   Levofloxacin - [**2118-1-4**] 05:30 AM
   Acyclovir - [**2118-1-4**] 10:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2118-1-4**] 10:15 PM
   Vancomycin - [**2118-1-5**] 04:59 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-1-4**] 08:21 AM
   Famotidine (Pepcid) - [**2118-1-4**] 09:00 AM
   Labetalol - [**2118-1-4**] 12:55 PM
   Hydralazine - [**2118-1-4**] 01:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-5**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 86 (79 - 99) bpm
   BP: 158/78(105) {111/48(67) - 195/95(126)} mmHg
   RR: 19 (17 - 39) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 8 (5 - 15)mmHg
   Total In:
                                                                  1,932 mL
                                                                    308 mL
   PO:
                                                                     50 mL
   TF:
   IVF:
                                                                  1,932 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                  8,550 mL
                                                                  1,050 mL
   Urine:
                                                                  8,550 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,618 mL
                                                                   -742 mL
   Respiratory support
   O2 Delivery Device: CPAP mask , Other
   Ventilator mode: Standby
   Vt (Spontaneous): 577 (577 - 577) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: 7.49/40/65/29/6
   Ve: 10.3 L/min
   PaO2 / FiO2: 65
   Physical Examination
   General: Awake, alert and oriented.
   HEENT: Sclera anicteric, pupils equal/reactive, MMM
   Neck: Supple, JVD very difficult to appreciate, no adenopathy
   Lungs: Coarse anterolaterally.  No wheezes or rales. Difficult exam but
   overall clear.
   CV: RRR no murmurs, rubs, gallops appreciated.
   Abdomen:  Very obese, soft, appears non-tender, bowel sounds present,
   no rebound tenderness or guarding, pitting abdominal wall edema.
   Suprapubic incision covered with clean dressing, intact. No signs of
   ongoing bleeding or drainage.
   Ext: Warm, well perfused, 2+ edema.
   Neuro: CN II-XII grossly intact, AOx3.
   Labs / Radiology
   335 K/uL
   8.3 g/dL
   118 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.7 mEq/L
   15 mg/dL
   105 mEq/L
   142 mEq/L
   25.1 %
   10.4 K/uL
        [image002.jpg]
                             [**2118-1-3**]  04:52 PM
                             [**2118-1-3**]  10:02 PM
                             [**2118-1-4**]  03:29 AM
                             [**2118-1-4**]  06:57 AM
                             [**2118-1-4**]  10:19 AM
                             [**2118-1-4**]  11:56 AM
                             [**2118-1-4**]  04:51 PM
                             [**2118-1-4**]  05:01 PM
                             [**2118-1-4**]  10:31 PM
                             [**2118-1-5**]  03:11 AM
   WBC
   8.6
   10.4
   Hct
   25.1
   25.1
   Plt
   362
   335
   Cr
   0.7
   0.7
   0.9
   TCO2
   31
   30
   32
   30
   31
   30
   31
   Glucose
   118
   156
   118
   Other labs: PT / PTT / INR:14.0/24.4/1.2, CK / CKMB /
   Troponin-T:115/2/<0.01, ALT / AST:[**9-23**], Alk Phos / T Bili:47/0.4,
   Amylase / Lipase:30/15, Differential-Neuts:96.5 %, Lymph:1.3 %,
   Mono:2.1 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   [**2118-1-5**] NO NEW CXR
   [**2118-1-4**] CXR: Generalized edema continues to improve. Residual
   opacification in the lower lungs could be persistent edema though
   concurrent pneumonia is a possibility. Heart size is normal. ET tube is
   still at the carina and to be withdrawn at least 3 cm. Nasogastric tube
   is coiled in the stomach and passes out of view. Moderate-to-severe
   cardiomegaly is stable. Pleural effusions are small if any. No
   pneumothorax. Right jugular line ends at the superior cavoatrial
   junction.
   [**2118-1-5**] NO NEW CULTURE DATA TO REPORT
   Assessment and Plan
   34F with asthma, DM, HTN, G3P1 POD#9 from caesarean section, presenting
   with hypoxemic respiratory failure.
   # Hypoxic respiratory failure
   S/p extubation and currently much improved. On CPAP overnight. Etiology
   of respiratory failure unclear. Cardiomegaly on chest x-ray, but echo
   normal in OSH. Likely projection versus questionable transient
   cardiomyopathy related with pregnancy; BNP 534. Likely some fluid
   overload and component of ARDS currently resolved. Questionable also
   pneumonia CAP versus HAP as cause of symptoms.
   - Continue Vancomycin, Zosyn, Levofloxacin, Acyclovir (start date
   [**1-1**]); Tamiflu discontinued. Currently day 4 of antibiotics. Consider
   continue antibiotics until tomorrow, and then transition
   Levofloxacin/Acyclovir to PO for 7 day course total.
   - Trend CXR
   - Repeat ABG off CPAP
   - Follow cultures
   # Labile blood pressure
   Very labile, initially thought likely due to withdrawal of methyl-dopa.
   Had good relief with Labetalol drip yesterday and titrated off and
   changed to qid dosing. Interesting to note that patient not on any anti
   hypertensives prior to her pregnancy. Labetalol should have no impact
   if patient chooses to nurse.
   - Labetalol 200mg qid
   - Chlorthalidone 50mg qd
   # Fever, leukocytosis
   Stable; afebrile at this time. Patient was only febrile once one day
   after admission, and that had resolved with Tylenol.
   - Follow cultures
   - Continue antibiotics as above
   # s/p caesarean section
   OBGYN following. Wound does not appear infected at this time. Unable to
   place wound vac secondary to panus.
   - Continue wound care
   # ARF. Stable, but slightly above baseline.
   - Trend Cr
   # Anemia
   Stable. Drop thought related with serosanguinous drainage from wound;
   has since been stable throughout admission.
   - Goal hct > 21
   # DM type II
   Was requiring multi-100s units of insulin daily during pregnancy per
   past [**Last Name (un) 294**] note.  Stopped insulin drip yesterday.
   - ISS with regular for now
   - Calculate necessary standing insulin
   # Asthma
   Does not seem to be playing major role in current respiratory failure.
   - Continue Albuterol, Ipratropium
   # FEN: No IVF, replete electrolytes, clears advance as tolerated to
   regular
   # Prophylaxis: SQH, H2B
   # Access: Peripherals, central line. Central line can likely be
   discontinued today.
   # Communication: Patient; husband is HCP.
   # Code:  Full
   # Disposition: ICU pending clinical improvement; has PT/OT ordered,
   likely candidate for floor this PM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2118-1-1**] 01:03 AM
   Arterial Line - [**2118-1-1**] 02:53 AM
   Multi Lumen - [**2118-1-1**] 05:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-01-05 08:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Hypertension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2118-1-4**] 09:30 AM
   Off labetolol gtt and transitioned to po labetolol
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   Lisinopril
   Cough;
   Celexa (Oral) (Citalopram Hydrobromide)
   sexual dysfunct
   Last dose of Antibiotics:
   Levofloxacin - [**2118-1-4**] 05:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2118-1-4**] 10:15 PM
   Vancomycin - [**2118-1-5**] 04:59 AM
   Acyclovir - [**2118-1-5**] 07:48 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2118-1-4**] 09:00 AM
   Labetalol - [**2118-1-4**] 12:55 PM
   Hydralazine - [**2118-1-4**] 01:30 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-1-5**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98.1
   HR: 73 (73 - 99) bpm
   BP: 141/70(93) {111/48(67) - 195/95(126)} mmHg
   RR: 30 (17 - 39) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
   CVP: 8 (5 - 14)mmHg
   Total In:
                                                                  1,932 mL
                                                                    436 mL
   PO:
                                                                     50 mL
   TF:
   IVF:
                                                                  1,932 mL
                                                                    386 mL
   Blood products:
   Total out:
                                                                  8,550 mL
                                                                  1,660 mL
   Urine:
                                                                  8,550 mL
                                                                  1,660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,618 mL
                                                                 -1,224 mL
   Respiratory support
   O2 Delivery Device: CPAP mask , Other
   Ventilator mode: Standby
   FiO2: 50%
   SpO2: 99%
   ABG: 7.49/40/65/29/6
   PaO2 / FiO2: 65
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   8.3 g/dL
   335 K/uL
   118 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.7 mEq/L
   15 mg/dL
   105 mEq/L
   142 mEq/L
   25.1 %
   10.4 K/uL
        [image002.jpg]
                             [**2118-1-3**]  04:52 PM
                             [**2118-1-3**]  10:02 PM
                             [**2118-1-4**]  03:29 AM
                             [**2118-1-4**]  06:57 AM
                             [**2118-1-4**]  10:19 AM
                             [**2118-1-4**]  11:56 AM
                             [**2118-1-4**]  04:51 PM
                             [**2118-1-4**]  05:01 PM
                             [**2118-1-4**]  10:31 PM
                             [**2118-1-5**]  03:11 AM
   WBC
   8.6
   10.4
   Hct
   25.1
   25.1
   Plt
   362
   335
   Cr
   0.7
   0.7
   0.9
   TCO2
   31
   30
   32
   30
   31
   30
   31
   Glucose
   118
   156
   118
   Other labs: PT / PTT / INR:14.0/24.4/1.2, CK / CKMB /
   Troponin-T:115/2/<0.01, ALT / AST:[**9-23**], Alk Phos / T Bili:47/0.4,
   Amylase / Lipase:30/15, Differential-Neuts:96.5 %, Lymph:1.3 %,
   Mono:2.1 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 .H/O HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE I
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 OBSTRUCTIVE SLEEP APNEA (OSA)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   34F with asthma, DM, HTN, G3P1 POD#8 from Csection, presenting with
   hypoxemic respiratory failure.
   # Hypoxic respiratory failure.  No microbiologic diagnosis.
   -D/C abx - has completed course of levoflox
   -D/C ACV -
   -Now extubated
   -Cont CPAP at night
   # Hypertension:
   -Transitioned to po's
   # Post-partum care: Appreciate ongoing Ob input
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2118-1-1**] 01:03 AM
   Arterial Line - [**2118-1-1**] 02:53 AM
   Multi Lumen - [**2118-1-1**] 05:35 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor